US05654326
1-([1,1'-Biphenyl]-2-ylmethyl)-2-ethyl-4-hydroxy-1H-indole (911 mg, 2.8 mmol) was alkylated by treating with 0.26 mL (2.8 mmol) of methyl bromoacetate and 111 mg (2.8 mmol) of 60% NaH/mineral oil in DMF as described in Example 1, Part E. The product was purified by chromatography over silica gel eluting with 20% EtOAc/hexane, to give 655 mg (59% yield) of [[1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-1H-indol-4-yl]oxy]acetic acid methyl ester.

reactant | 1-([1,1'-Biphenyl]-2-ylmethyl)-2-ethyl-4-hydroxy-1H-indole | 2.8 mmol, 911 mg | C1(=C(C=CC=C1)CN1C(=CC2=C(C=CC=C12)O)CC)C1=CC=CC=C1 | C23H21NO
reactant | methyl bromoacetate | 2.8 mmol, 0.26 mL | BrCC(=O)OC | C3H5BrO2
reactant | NaH | 2.8 mmol, 111 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | [[1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-1H-indol-4-yl]oxy]acetic acid methyl ester | 655 mg, 59% yield | COC(COC1=C2C=C(N(C2=CC=C1)CC1=C(C=CC=C1)C1=CC=CC=C1)CC)=O | C26H25NO3
